US03970670
The starting material is prepared as follows: 8.65 g of ethyl 4,4-diethoxycrotonate are added at once at 0° to the mixture prepared from 1 g of pulverized sodium, 40 ml of ethanol and 4.94 ml of ethyl thioglycolate, evaporating the mixture after stirring it at room temperature and adding 43 ml of dimethylsulfoxide and 20 ml of dimethylformamide. The mixture is stirred at 0° for 1/2 hour and at room temperature for 2 hours, poored into cold water and extracted with diethyl ether. The aqueous layer is acidified with 21.7 ml of cold 2N hydrochloric acid and extracted with diethyl ether. The extract is dried and evaporated, to yield the ethyl 2-diethoxymethyl-4-oxo-tetrahydrothiophene-3-carboxylate showing in the Ir spectrum-bands at 1750, 1725, 1660, 1615 cm-1.

reactant | ethyl 4,4-diethoxycrotonate | 8.65 g | C(C)OC(/C=C/C(=O)OCC)OCC | C10H18O4
reactant | sodium | 1 g | [Na] | Na
reactant | ethyl thioglycolate | 4.94 ml | C(CS)(=O)OCC | C4H8O2S
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | ethyl 2-diethoxymethyl-4-oxo-tetrahydrothiophene-3-carboxylate | C(C)OC(C1SCC(C1C(=O)OCC)=O)OCC | C12H20O5S
